US06355635B1
Boron tribromide (25 mL of a 1 M solution in dichloromethane) was added to a solution of 1-{4-[5(3-methoxy-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-4-isopropyl-piperazine (1.94 g) in dichloromethane. The resultant yellow suspension was kept at ambient temperature overnight and then quenched by the addition of ice and diluted with water. The resultant mixture was stirred for 30 min and then filtered. The filtrate was extracted with 3N HCl, the solids that had been removed were recombined with the aqueous extracts, and the pH was adjusted to 8 with saturated NaHCO3. The resultant mixture was extracted with 9:1 chloroform/methanol. The combined extracts were concentrated in vacuo, and the residue was concentrated from methanol to provide 1-{4-[5(3-Hydroxy-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-4-isopropyl-piperazine (quantitative).

reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | 1-{4-[5(3-methoxy-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-4-isopropyl-piperazine | 1.94 g | COC=1C=C(C=CC1)C1=CN=C(N1)C1=CC(=NC=C1)N1CCN(CC1)C(C)C | C22H27N5O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-{4-[5(3-Hydroxy-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-4-isopropyl-piperazine | OC=1C=C(C=CC1)C1=CN=C(N1)C1=CC(=NC=C1)N1CCN(CC1)C(C)C | C21H25N5O
